US07238716B2
To a mixture of 2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridinecarbaldehyde (0.40 g), ethanol (10 mL) and tetrahydrofuran (10 mL) was added sodium borohydride (0.04 g) at 0° C., and the mixture was stirred at room temperature for 1 hr. Water was added to the reaction mixture, and the precipitated solid was collected by filtration, and dried with air to give crystals (0.35 g, 88%) of [2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]methanol. Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 139-140° C.

reactant | 2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridinecarbaldehyde | 0.40 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(COC2=NC=CC=C2C=O)C=C1 | C24H20N2O4
reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | sodium borohydride | 0.04 g | [BH4-].[Na+]
solvent | Water | O | H2O
product | [2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]methanol | 0.35 g, 88% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(COC2=NC=CC=C2CO)C=C1 | C24H22N2O4
